Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
weakness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is an ___ year old lady with a history of schizophrenia,
bipolar, lupus, Grave's disease, breast cancer status post
mastectomy (in remission), hypertension who presents with acute
onset right leg weakness and later right arm weakness and
numbness 1 day ago.

Mrs. ___ is an unwilling historian at times. She says she
has answered all doctors questions ___ and doesn't want to
answer anymore. After some time she agrees to tell me some of 
the
story but is intermittently angry, closing her eyes and yelling,
"I'm done!". 

She tells me that recently she has been in her usual state of
health. On ___ she was feeling great, walked to ___
to get various sundries and walked back home where she lives 
with
her husband who has ___. She said they got into an
argument which is not atypical. She tells me they argue and
bicker a lot and he calls her names. ___ was irritated because 
of
this but was otherwise feeling well.

On ___ they got into another argument over the television.
Someone it was put on ___ and they couldn't figure out how 
to
get in off. They were arguing and yelling and she decided she 
had
enough and went to get up and as soon as she stood up, she felt
like her right leg would not support her and buckled. She did 
not
fall but had to sit back down on the recliner. She had no 
trouble
speaking or comprehending speech. She had no headache or other
symptoms. She thinks at this time she noticed some tingling and
aching throughout her right arm. She does have tingling in her
right hand from time to time that can go to her elbow, but this
was different because it felt more numb and involved up to the
elbow. She laid on the recliner hoping it would go away. She
finally got up about an hour later to go to bed and take her
medications. When she got up she still noticed her right leg 
felt
weak but she was able to walk. The leg did not feel numb. She
went into take her pills and was having a hard time picking up
her pills with her right hand but was having trouble picking 
them
up and lifting her right arm. Her right arm felt numb from the
hands to the shoulder. It also felt achy. She decided to go to
sleep hoping the symptoms would resolve. She has hand
intermittent tingling in her finger tips from CTS but this was
different because it involved the entire arm. 

When she awoke the next morning her weakness was better but not
completely gone. She was able to make coffee, take care of her
husband and eat a donut. However, given the fact she still felt
some weakness and right arm numbness, she called her daughter 
and
was taken to the hospital. Her daughter is at bedside and says
usually her mother is very sharp. She has mental health issues
which make it hard to deal with her at times, but she never
complains about weakness or numbness as far as she is aware. 
When
her mom called her and reported these findings, she felt like
there was probably something going on. 

___ denies headaches, new visual changes associated with these
symptoms. She has a "bad right eye" for years and cannot see 
well
from the right eye. She gets double vision in her right eye only
at times. She has hearing loss for many years, right worse than
left. She denies new dysphagia, dizziness or dysarthria. Her
daughter reports her face looks how it always looks and her
speech sounds the same (slightly dysarthria perhaps given 
minimal
teeth). She has not been sick recently. She has chronic 
arthritis
in various joints. No falls. no urinary or bowel symptoms.

She initially went to ___ where she had an NIHSS 1 for
right arm decreased sensation. She had CTH which on my read 
shows
atrophic changes and chronic microvascular disease. There is an
Acomm aneurysm. The documentation at ___ suggests there
was concern for ischemia so she was given the remaining dose of
ASA to make total daily dose of 324 mg (she takes 81 mg daily).
She was subsequently transferred to ___ for neurology and also 
for
neurosurgery given her aneurysm. 

ROS: 
She denies recent illness, fevers, chills, rash. Remainder of
symptoms as above.

 
Past Medical History:
PMH:
hypertension
schizophrenia
bipolar
SLE (unclear if on prednisone)
Grave's disease
reflux
breast cancer s/p chemo/rad and mastectomy (she is unclear of
when)- she says this is in remission
arthritis
nearly blind in right eye
 
Social History:
___
Family History:
unknown
 
Physical Exam:
Temp Pulse RR BP Rhythm O2 sat O2 flow Pain
98.5 80 16 135/71
MAP: 92.3
96
Room Air
0

General: Elderly lady lying in bed, intermittently refusing to
provide history or do parts of the exam; quickly irritated, but
quickly redirectable
HEENT: NC/AT, no scleral icterus noted 
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema

Neurologic:

-Mental Status:

**frequently stops and says, "get out now, I've answered all the
questions I will answer"; refuses various parts of the exam. She
is oriented to full date. She knows she is in a hospital but not
which one and thinks she is ___. She later remembers she is
in ___. She is able to do DOWB. She tells me her full 
address,
recent news events and several preceding presidents. Language is
fluent with no paraphasias. She names "cactus" and then refuses
to name other items for several minutes. We come back to naming
tasks and she names all items with ease. She can read and follow
complex commands. No r/l confusion. No finger agnosia. No 
apraxia
or neglect. 

-Cranial Nerves: Right pupil is 3.5 mm irregular and NR
(chronic), left pupil 3->2, fields full to finger wiggle, she
refuses eye movement testing, but briefly looks right and left
when asked with out clear gaze palsy. There is right eye
exotropia. No vertical skew. Normal face sensation. Slight left
NLFF but strong eye closure and mouth closure. There is some
hypomimia. Palate elevates symmetrically. Tongue deviates to 
left
with full excursions.  

-Motor: Increased tone right>left. Rest tremor L>R arm and L leg
~50% of the time. Small finger taps - right smaller than left.
She gets very frustrated with motor testing, we take breaks and
try to come back but she frequently says, "go away" and gets
irritated. With pronator testing, both hands slightly cup and
pronate without drift. She has full strength in bilateral
deltoids, triceps, biceps, wrist ext, finger ext at least. R IP
is 4+ although this is a pain limited component. R ham 4+, R ___
4. TA and gas full bilaterally. 

-Sensory: Pin decreased on right arm. Prop intact at toes bl. No
extinction. Refused to stand up for Romberg testing. 

-Reflexes:
Biceps and BR are 3+, knees are 3+ with crossed adductors, right
ankle 1, left ankle 0; toe mute on left and up on right. 

-Coordination: No dysmetria on FnF or HkS

-Gait: refused 

DISCHARGE PHYSICAL EXAM
___ ___ Temp: 98.4 PO BP: 122/74 L Lying HR: 68 RR: 20 O2
sat: 93% O2 delivery: RA 

MS: conversing with team. Appears to understand us. 
CNs: Dysarthric. 
Motor: delts full, R triceps and IP ___ (pain limited). wrist
extensors full, finger extensors full. R hamstring ___. R quad
full. R TA full. R ___ weak against resistance (4-)
LLE full throughout 
Sensation: Dull to pinprick over R thigh, patchy areas of R arm. 

Coordination: no dysmetria on FNF
 
Pertinent Results:
___ 06:00PM BLOOD cTropnT-<0.01
___ 06:00PM BLOOD Cholest-182
___ 06:00PM BLOOD %HbA1c-5.4 eAG-108
___ 06:00PM BLOOD Triglyc-157* HDL-80 CHOL/HD-2.3 
LDLcalc-71
___ 06:00PM BLOOD TSH-2.1
___ 07:35PM BLOOD Glucose-103

CTA head/neck
IMPRESSION:
1. Head CT: No acute territorial infarct, hemorrhage or mass.  
Moderate parenchymal atrophy and periventricular/subcortical 
hypodensities which are nonspecific but compatible with small 
vessel ischemic changes.
2. CTA Head: There is an elongated, saccular aneurysm of the 
anterior communicating artery measuring 3 mm at its base and 5 
mm in height.
3. Nonocclusive calcified plaque at the bilateral carotid 
siphons without appreciable stenosis.  Otherwise, the vessels of 
the ___ appear within normal limits.
4. No evidence of internal carotid artery or vertebral artery 
stenosis.  The right internal carotid artery demonstrates a 
retropharyngeal course.  No evidence of dissection.
 
Brief Hospital Course:
___ yo with schizophrenia, bipolar disorder, HTN, hypothyroidism, 
SLE, breast cancer in ?remission s/p mastectomy who presents who 
presents with right sided weakness and sensory symptoms. Patient 
was an unwilling historian at times and did not elect to 
complete the whole neurological exam as well. Overall, 
impression was that there seemed to probably be some decreased 
sensation and weakness in the R arm and leg, suggestive of 
possible thalamocapsular stroke, given the timing and onset of 
the symptoms. To evaluate this MRI brain c spine was ordered. On 
hospital day 2, MRI had not yet been performed, and patient and 
patient's daughter felt that she would be better served by 
completing the workup as an outpatient, as she becomes agitated 
in the inpatient setting. Our recommendation was that this be 
done inpatient, so patient was discharged AMA (against medical 
advice).

A1c was wnl. LDL 71. She was started on aspirin 81 mg daily. CTA 
h/n done at ___ did incidentally note an acomm aneurysm 
that was felt to be incidental and likely unrelated to her 
symptoms. She saw neurosurgery inpatient who recommended likely 
outpatient follow up pending further inpatient stroke workup. 
She was seen by physical therapy who felt she was ok for home 
with outpatient ___.

TRANSITIONAL ISSUES

#right sided weakness
-recommend MRI head, cervical spine as outpatient (was 
recommended to be inpatient, but left AMA)
-may need outpatient TTE and holter/ziopatch if MRI shows stroke
-aspirin 81 mg daily
-will need neurology outpatient follow

#acomm aneurysm
-noted on ___ CTA
-needs outpatient neurosurgery follow up
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ranitidine 150 mg PO BID 
2. Ipratropium-Albuterol Inhalation Spray 1 INH IH DAILY 
3. Zolpidem Tartrate 5 mg PO QHS 
4. MethIMAzole 10 mg PO DAILY 
5. Celecoxib 200 mg oral DAILY 
6. amLODIPine 2.5 mg PO DAILY 
7. Gabapentin 300 mg PO DAILY 
8. Haloperidol 2.5 mg PO DAILY 
9. Atenolol 100 mg PO DAILY 
10. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  amLODIPine 2.5 mg PO DAILY  
3.  Atenolol 100 mg PO DAILY  
4.  Celecoxib 200 mg oral DAILY  
5.  Gabapentin 300 mg PO DAILY  
6.  Haloperidol 2.5 mg PO DAILY  
7.  Ipratropium-Albuterol Inhalation Spray 1 INH IH DAILY  
8.  MethIMAzole 10 mg PO DAILY  
9.  Omeprazole 20 mg PO DAILY  
10.  Ranitidine 150 mg PO BID  
11.  Zolpidem Tartrate 5 mg PO QHS  
12.Outpatient Physical Therapy
R53.1

please evaluate and treat right sided weakness

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
right sided weakness and sensory changes

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear ___,

___ were hospitalized for right sided weakness. We were 
concerned that ___ may have had a stroke to cause your symptoms. 
To evaluate this we recommended a MRI of the brain and cervical 
spine. ___ indicated that because this test had not been done 
yet, that it would be better to go home and have this done as an 
outpatient, rather than continue waiting in the hospital. From a 
medical perspective we recommend having the MRI done while ___ 
are still inpatient. As such your discharge is AGAINST MEDICAL 
ADVICE. 

At this point we do not definitely know what caused the right 
sided weakness. By leaving the hospital at this point, there 
could be a risk of further neurological deficit, stroke, 
bleeding. Your cholesterol was normal here. ___ did not have 
evidence of diabetes. It was noted that ___ had a small aneurysm 
(outpouching of blood vessel) on your CT scan. We do not think 
this was related to your symptoms. ___ should make sure to 
follow up outpatient with a neurosurgeon for this. ___ should 
also have your PCP arrange for ___ to see a neurologist and to 
obtain a MRI of the brain and cervical spine to help determine 
what caused the weakness.

It was a pleasure taking care of ___,

Sincerely,
Your ___ neurology team
 
Followup Instructions:
___